Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
Irreg Rapid heart beat after discharge to home on ___ after 
Replacement of ascending aorta and hemiarch ___ 

 
Major Surgical or Invasive Procedure:
None this admission

Major Surgical or Invasive procedures: ___
1. Replacement of ascending aorta and hemiarch using a 28-
mm Dacron tube graft and deep hypothermic circulatory
arrest. The graft data is the following. It is a
Vascutek Gelweave graft, catalog number ___, lot
number ___, serial number ___.
2. CorMatrix reconstruction of the pericardium.
3. Epiaortic duplex scanning.
 

 
History of Present Illness:
 This ___ year old female is s/p
Replacement of ascending aorta and hemiarch using a 28- mm 
Dacron
tube graft ___.  She was discharged to home on ___ and
was doing well until she had a rapid heart rate this morning. 
She presented to ___ and was in atrial fibrillation.  She
was treated with IV Dilt and converted to sinus rhythm.  She was
transferred to ___.
 
Past Medical History:
Aortic Aneurysm
Hypertension
Dyslipidemia
Colonic polyps
Renal Insufficiency 1.45
History of ischemic CVA ___ visual disturbance)
COPD/Asthma
Uterine cancer
Right Lung Nodule, likely carcinoma
Giant Cell Arteritis/Polymyalgia Rheumatica (tx with steroids-
currently on Prednisone 5mg daily)
Obesity
Elevated HgbA1c (while on steroids)
Hypothyroidism
History of + PPD
Elevated CRP
Colovesicular fistula and Diverticulitis
Past Surgical History:
s/p Total Abd Hysterectomy
s/p Temporal artery biopsy
s/p Tonsillectomy
s/p Placement of left-sided ureteral stent, sigmoid colectomy,
takedown of colovesicular fistula, mobilization of splenic
flexure and diverting loop ileostomy
s/p Ileostomy takedown
 
Social History:
___
Family History:
Mother with abd aortic aneurysm. Both parents
with CVAs

 
Physical Exam:
Pulse: 74 Resp: 20 O2 sat: 92% RA 
B/P  Right: 111/62    

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Scattered wheezes, decreased at bases bilaterally
Heart: RRR []  Irregular [x]  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [x] 1+
Neuro: Grossly intact [x]

 
Pertinent Results:
___ 07:08PM   GLUCOSE-108* UREA N-22* CREAT-0.9 SODIUM-135 
POTASSIUM-3.3 CHLORIDE-94* TOTAL CO2-32 ANION GAP-12
___ 07:08PM   WBC-11.6* RBC-2.71* HGB-8.0* HCT-24.9* MCV-92 
MCH-29.6 MCHC-32.2 RDW-16.9*

___ ___ F  ___  ___ 
 
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 6:33 
___ 
 
  
___ FA6A ___ 6:33 ___ 
CHEST (PORTABLE AP)   Clip # ___   
Reason: eval for pleural effusions  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman s/p asc ao and hemiarch replacement  
REASON FOR THIS EXAMINATION: 
   eval for pleural effusions  

 
 
Wet Read: ___ ___ 10:41 ___ 
persisting opacity at the L costophrenic angle; ___ chest ct 
shows an 
epicardial fat pad in this local although ___ cxr shows a 
small L pleural 
effusion - both are likely contributing to this finding, and a 
lateral view is 
likely going to be more helpful in tracking progress of the L 
effusion. 

 
Final Report 
CHEST RADIOGRAPH 
  
INDICATION: Evaluation for pleural effusions. 
  
COMPARISON: ___. 
  
FINDINGS: As compared to the previous radiograph, the pleural 
effusion on the left might have minimally increased. On the 
right, the small effusion, that was visible on the lateral chest 
x-ray, is still not visible on the frontal view. 
  
Left retrocardiac atelectasis. Unchanged appearance of the 
cardiac 
silhouette. 
  
Approved: FRI ___ 9:18 AM 
 

 
Brief Hospital Course:
Mrs. ___ was admitted from ___ where she presented 
in rapid afib and was treated with diltiazem drip. Upon 
admission to ___ was in SR. Diltiazem was d/c'd and she was 
maintained on lopressor and started on oral amiodarone load. She 
had one brief burst of rapid afib and has remianed in SR. Her 
admission CXR showed a small- mod left effusion and her physical 
exam was notable for decreased left breath sounds and ___ pedal 
edema bilaterally. She was diuresed with IV lasix w/ good 
results.
She was discharged to home on HD #3 with ___ services.
 
Medications on Admission:
1. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO BID (2 times a day).  
4. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
6. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
7. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 

 
8. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


9. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
12. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO Q12H (every 12 hours) for 1 
weeks.
Disp:*28 Tablet Extended Release(s)* Refills:*0*
13. furosemide 20 mg Tablet Sig: One (1) Tablet PO twice a day 
for 1 weeks.
Disp:*14 Tablet(s)* Refills:*0*
14. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q3H (every 
3 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
2. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
5. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO BID (2 times a day).  
11. amiodarone 200 mg Tablet Sig: Two (2) Tablet PO twice a day: 
take 400mg 2x/day thru ___ then decrease to 400mg daily thru 
___ then decrease to 200mg ongoing.
Disp:*120 Tablet(s)* Refills:*2*
12. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day for 7 
days.
Disp:*7 Tablet(s)* Refills:*0*
13. potassium chloride 10 mEq Capsule, Extended Release Sig: One 
(1) Capsule, Extended Release PO once a day for 7 days.
Disp:*7 Capsule, Extended Release(s)* Refills:*0*
14. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
16. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
17. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Post -op afib
 Aortic Aneurysm
Hypertension
Dyslipidemia
Colonic polyps
Renal Insufficiency 1.45
History of ischemic CVA ___ visual disturbance)
COPD/Asthma
Uterine cancer
Right Lung Nodule, likely carcinoma
Giant Cell Arteritis/Polymyalgia Rheumatica (tx with steroids-
currently on Prednisone 5mg daily)
Obesity
Elevated HgbA1c (while on steroids)
Hypothyroidism
History of + PPD
Elevated CRP
Colovesicular fistula and Diverticulitis
Past Surgical History:
s/p Total Abd Hysterectomy
s/p Temporal artery biopsy
s/p Tonsillectomy
s/p Placement of left-sided ureteral stent, sigmoid colectomy,
takedown of colovesicular fistula, mobilization of splenic
flexure and diverting loop ileostomy
s/p Ileostomy takedown

 

 
Discharge Condition:
 Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema trace
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 

 

 
Followup Instructions:
___